* C:\Users\mzahedi\Documents\Git\RoboFriend\simulation\level-shift\level-shifter.asc
M1 HS 3.3V LS LS 2N7002
D1 LS HS 1N4148
R1 3.3V LS 10k
R2 5V HS 10k
V1 3.3V 0 3.3V
V2 5V 0 0V
.model D D
.lib C:\Users\mzahedi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mzahedi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 15s 0 100m
.backanno
.end
